US09238644B2
(a) 4-Chloro-5-(trifluoromethyl)-N-(6-(trifluoromethyl)pyridin-3-yl)pyrimidin-2-amine (A16)
A 1.0 M solution of zinc chloride in Et2O (18.5 mL, 18.5 mmol) was added to a solution of 2,6-dichloro-5-trifluoromethylpyrimidine (2.81 g, 13.0 mmol) in t-BuOH/DCE (1:1, 50 mL) at 0° C. over a period of 20 minutes then the resulting mixture was stirred for 1 hour. A solution of 5-amino-2-trifluoromethylpyrimidine (2.00 g, 12.3 mmol) and DIPEA (3.22 mL, 18.5 mmol) in t-BuOH/DCE (1:1, 30 mL) was added over 20 minutes then the resulting mixture was stirred at room temperature for 4 days, before heating to 40° C. and stirred for a further 24 hours. The volatiles were removed under reduced pressure to give a solid residue. Water (100 mL) was added and the suspension sonicated for 30 minutes. The resulting mixture was extracted with EtOAc (3×100 mL) and CHCl3 (100 mL). The organic extracts were combined, passed through a phase separation cartridge and the volatiles were evaporated under reduced pressure. The residue was purified by silica gel column chromatography (Biotage Isolera, 2×40 g SiO2, 0-25% EtOAc in petroleum benzine 40-60° C.) to give the title compound A16 as a white solid (1.78 g, 42%); 1H NMR (400 MHz, d6-DMSO) δ 11.21 (s, 1H), 9.02 (d, J=2.5 Hz, 1H), 8.96-8.89 (m, 1H), 8.40 (dd, J=8.6, 2.2 Hz, 1H), 7.92 (d, J=8.6 Hz, 1H). LCMS-A: rt 5.931 min; m/z 343 [M+H]+.

reactant | Et2O | 18.5 mmol, 18.5 mL | CCOCC | C4H10O
reactant | 2,6-dichloro-5-trifluoromethylpyrimidine | 13.0 mmol, 2.81 g | ClC1=NC(=C(C=N1)C(F)(F)F)Cl | C5HCl2F3N2
reactant | 5-amino-2-trifluoromethylpyrimidine | 12.3 mmol, 2.00 g | NC=1C=NC(=NC1)C(F)(F)F | C5H4F3N3
reactant | DIPEA | 18.5 mmol, 3.22 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | t-BuOH DCE | 50 mL | CC(C)(C)O.ClCCCl
solvent | t-BuOH DCE | 30 mL | CC(C)(C)O.ClCCCl
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | Water | 100 mL | O | H2O
product | 4-Chloro-5-(trifluoromethyl)-N-(6-(trifluoromethyl)pyridin-3-yl)pyrimidin-2-amine | ClC1=NC(=NC=C1C(F)(F)F)NC=1C=NC(=CC1)C(F)(F)F | C11H5ClF6N4
